US05607966
A solution of 2-(6-benzyloxy-2,5,7,8-tetramethyl-3,4-dihydro-2H-benzo[1,2-b]pyran-2yl)ethyl 2-(3-fluoro4-phenyl-phenyl)propionate in ethyl acetate was treated with 10% palladium on charcoal (Aldrich, 0.5 g). The resulting mixture was hydrogenated on a Parr Apparatus [initial pressure 60 pounds/inch2 (psi)]. After 18 hours, the reaction mixture was filtered, and the resulting solution concentrated in vacuo. The residue was subjected to flash chromatography (silica gel, 2:8, v:v, ethyl acetate:hexane). Concentration of the appropriate fractions afforded a clear oil. Hexane was added to the oil and a white solid formed upon standing. The white solid was collected by filtration to afford 0.91 g (36% yield) of 2-(6-hydroxy-2,5,7,8-tetramethyl-3,4-dihydro-2H-benzo[1,2-b]pyran-2yl)ethyl 2-(3-fluoro4-phenyl-phenyl)propionate as a mixture of stereoisomers.

reactant | 2-(6-benzyloxy-2,5,7,8-tetramethyl-3,4-dihydro-2H-benzo[1,2-b]pyran-2yl)ethyl 2-(3-fluoro4-phenyl-phenyl)propionate | FC=1C=C(C=CC1C1=CC=CC=C1)C(C(=O)OCCC1(CCC2=C(O1)C(=C(C(=C2C)OCC2=CC=CC=C2)C)C)C)C | C37H39FO4
reactant | Hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | 2-(6-hydroxy-2,5,7,8-tetramethyl-3,4-dihydro-2H-benzo[1,2-b]pyran-2yl)ethyl 2-(3-fluoro4-phenyl-phenyl)propionate | 0.91 g, 36% yield | FC=1C=C(C=CC1C1=CC=CC=C1)C(C(=O)OCCC1(CCC2=C(O1)C(=C(C(=C2C)O)C)C)C)C | C30H33FO4
